US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.35 g) and (4-isopropylphenyl)[(1-phenylpyrazol-4-yl)methyl]amine (0.58 g) as starting materials, N-(4-isopropylphenyl)-N-[(1-phenylpyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.42 g) was obtained.

reactant | 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.35 g | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | (4-isopropylphenyl)[(1-phenylpyrazol-4-yl)methyl]amine | 0.58 g | C(C)(C)C1=CC=C(C=C1)NCC=1C=NN(C1)C1=CC=CC=C1 | C19H21N3
product | N-(4-isopropylphenyl)-N-[(1-phenylpyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.42 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=CC=C12)CC=1C=NN(C1)C1=CC=CC=C1 | C30H31N3O
